US05191120
Preparation of N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-hydroxyacetamido-2,4,6-triiodoisophthalamide.
5-Acetoxyacetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide. 69 g (0.1 g-mole) of 5-acetoxyacetamido-2,4,6-triiodoisophthaloyl chloride is dissolved in DMAc (140 ml) and anhydrous Na2CO3 (31.8 g, 0.3 g-mole) is added. To the solution, a DMAc solution (87 ml) containing 26.2 g (0.3 g-mole) of 3-(N-2-hydroxyethyl)amino-1,2-propanediol is added. The mixture is heated and stirred at 35°-40° C. until the reaction is completed as determined by the TLC analysis (EtOAc/CH2Cl2 ; 30/20). After the reaction, the inorganic salts are filtered and the filtrate containing the desired product is evaporated to dryness to give a gum. The gum is triturated with isopropyl alcohol to dissolve the excess amino-triol. The clear supernatant is decanted and the residual solid is dissolved in water (150 ml), treated with Amberlite® IR-120H resin and evaporated to dryness to give the desired product (77 g, 86% yield).

reactant | 5-Acetoxyacetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide | C(C)(=O)OCC(=O)NC=1C(=C(C(=C(C(=O)NCC(O)CC(CO)O)C1I)I)C(=O)NCC(O)CC(CO)O)I | C22H30I3N3O11
reactant | 5-acetoxyacetamido-2,4,6-triiodoisophthaloyl chloride | 69 g | C(C)(=O)OCC(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C12H6Cl2I3NO5
reactant | Na2CO3 | 31.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-(N-2-hydroxyethyl)amino-1,2-propanediol | 26.2 g | OCCNCC(CO)O | C5H13NO3
solvent | DMAc | 140 ml | CC(=O)N(C)C | C4H9NO
solvent | DMAc | 87 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
product | N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-hydroxyacetamido-2,4,6-triiodoisophthalamide | 77 g, 86% yield | OC(CC(CNC(C1=C(C(C(=O)NCC(O)CC(CO)O)=C(C(=C1I)NC(CO)=O)I)I)=O)O)CO | C20H28I3N3O10
